### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Limits/MonoCoprod): inclusions of subcoproducts are mono

### PR DESCRIPTION
**Pull request by joelriou**
In this PR, it is shown that when suitable coproducts exists in a category satisfying `[MonoCoprod C]`, then if `X : I → C` and `ι : J → I` is an injective map, the canonical morphism `∐ (X ∘ ι) ⟶ ∐ X` is a monomorphism.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Limits/MonoCoprod.lean [hunk 1]
```diff
@@ -107,6 +108,103 @@ instance monoCoprodType : MonoCoprod (Type u) :=
...
+    hc₁ hc₂ _ (by simp)
+  exact IsColimit.ofIsoColimit ((IsColimit.ofCoconeEquiv (Cocones.equivalenceOfReindexing
+    (Discrete.equivalence e) (Iso.refl _))).symm hc) (Cocones.ext (Iso.refl _))
+
+lemma mono_of_injective [HasCoproduct (fun (k : (Set.range ι).compl) => X k.1)] :
+    Mono (Cofan.IsColimit.desc hc₁ (fun i => c.inj (ι i))) :=
+  mono_of_injective_aux X ι hι c c₁ hc hc₁ _ (colimit.isColimit _)
+
+end
+
```
Comment (chrisflav) [inline Mathlib/CategoryTheory/Limits/MonoCoprod.lean:200]: What about adding as a corollary:

```suggestion
section

variable [MonoCoprod C] (X : I → C) (c : Cofan X) (h : IsColimit c)

lemma inj_mono_of_injective (i : I)
    [HasCoproduct (fun (k : (Set.range (fun _ : Unit ↦ i)).compl) => X k.1)] :
    Mono (Cofan.inj c i) := by
  let ι : Unit → I := fun _ ↦ i
  have hinj : Function.Injective ι := fun _ _ _ ↦ rfl
  let c₁ : Cofan (X ∘ ι) := Cofan.mk (X i) (fun _ ↦ 𝟙 _)
  let hc₁ : IsColimit c₁ := mkCofanColimit _ (fun s => s.inj ())
  show Mono (Cofan.IsColimit.desc hc₁ (fun _ => c.inj i))
  exact mono_of_injective X ι hinj c c₁ h hc₁

end
```

File: Mathlib/CategoryTheory/Limits/MonoCoprod.lean [hunk 2]
```diff
@@ -107,6 +108,103 @@ instance monoCoprodType : MonoCoprod (Type u) :=
...
+lemma mono_of_injective' [HasCoproduct (X ∘ ι)] [HasCoproduct X]
+    [HasCoproduct (fun (k : (Set.range ι).compl) => X k.1)] :
+    Mono (Sigma.desc (f := X ∘ ι) (fun i => Sigma.ι X (ι i))) :=
+  mono_of_injective X ι hι _ _ (colimit.isColimit _) (colimit.isColimit _)
+
+end
+
```
Comment (chrisflav) [inline Mathlib/CategoryTheory/Limits/MonoCoprod.lean:207]: And similarly here:
```suggestion
lemma inj_mono_of_injective' [HasCoproduct X] (i : I)
    [HasCoproduct (fun (k : (Set.range (fun _ : Unit ↦ i)).compl) => X k.1)] :
    Mono (Sigma.ι X i) :=
  inj_mono_of_injective X _ (colimit.isColimit _) i
```

**Comment by joelriou** [comment]
Thanks @chrisflav and @TwoFX for the suggestions!

File: Mathlib/CategoryTheory/Limits/MonoCoprod.lean [hunk 3]
```diff
@@ -107,6 +110,106 @@ instance monoCoprodType : MonoCoprod (Type u) :=
...
+lemma mono_of_injective [HasCoproduct (fun (k : ((Set.range ι)ᶜ : Set I)) => X k.1)] :
+    Mono (Cofan.IsColimit.desc hc₁ (fun i => c.inj (ι i))) :=
+  mono_of_injective_aux X ι hι c c₁ hc hc₁ _ (colimit.isColimit _)
+
+end
+
+lemma mono_of_injective' [HasCoproduct (X ∘ ι)] [HasCoproduct X]
+    [HasCoproduct (fun (k : ((Set.range ι)ᶜ : Set I)) => X k.1)] :
+    Mono (Sigma.desc (f := X ∘ ι) (fun i => Sigma.ι X (ι i))) :=
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Limits/MonoCoprod.lean:189]: I wonder if we should prefer the spelling
```suggestion
    Mono (Sigma.map' ι (fun j => 𝟙 (X ∘ ι) j)) :=
```
here. The two maps are not defeq as the `map'` spelling introduces a composition with an identity that's not there in your version, but `map'` is supposed to be the general "map sigma into other sigma", so it would be nice to have your result for `map'`. Maybe we want both?

Comment (joelriou) [reply Mathlib/CategoryTheory/Limits/MonoCoprod.lean]: Thanks for the suggestion! I have added the `map'` version.

**Review by TwoFX — APPROVED** [review]
Thanks!

bors r+
